US07968552B2
In an atmosphere of nitrogen, a mixture of (4-{[tert-butyl(dimethyl)silyl]oxy}-2-methylphenyl)boronic acid, 6-[(3-bromo-2-methylbenzyl)oxy]nicotinaldehyde, palladium acetate, dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, tripotassium phosphate, toluene and water was stirred with heating at 60° C. for 2 days to obtain 6-[(4′-{[tert-butyl(dimethyl)silyl]oxy}-2,2′-dimethylbiphenyl-3-yl)methoxy]nicotinaldehyde.

reactant | (4-{[tert-butyl(dimethyl)silyl]oxy}-2-methylphenyl)boronic acid | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)B(O)O)C | C13H23BO3Si
reactant | 6-[(3-bromo-2-methylbenzyl)oxy]nicotinaldehyde | BrC=1C(=C(COC2=NC=C(C=O)C=C2)C=CC1)C | C14H12BrNO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-[(4′-{[tert-butyl(dimethyl)silyl]oxy}-2,2′-dimethylbiphenyl-3-yl)methoxy]nicotinaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)C1=C(C(=CC=C1)COC1=NC=C(C=O)C=C1)C)C | C27H33NO3Si
